US08022248B2
i) 4-chloro-2-(methylthio)-benzaldehyde
The subtitle compound was prepared by using 2-chloro-4-fluorobenzaldehyde (1.16 g) in dry DMF (20 ml). The mixture was treated with sodium thiomethoxide (0.52 g) and heated to 50° C. for 2 hours. The mixture was diluted with water, extracted with ethyl acetate, dried and concentrated under reduced pressure to give a solid. The residue was purified by chromatography on silica eluting with isohexane/diethylether 2:1 to give a white solid, yield 0.70 g.

reactant | 2-chloro-4-fluorobenzaldehyde | 1.16 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | sodium thiomethoxide | 0.52 g | C[S-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-chloro-2-(methylthio)-benzaldehyde | ClC1=CC(=C(C=O)C=C1)SC | C8H7ClOS
